US07772417B2
Synthesis of Br(CH2)11Cl
In a 250 mL three-necked flask, 11-bromoundecanol (10 g, 39.8-mmol), pyridine (2 mL, 24.7 mmol) and thionyl chloride (10 mL, 137 mmol) were successively introduced. The solution was stirred at room temperature and the reaction was followed by IR. After disappearance of the OH band, the mixture was hydrolysed carefully by addition of water, the aqueous layer was extracted three times with diethyl oxide. The organic layers were washed successively with a 10% HCl aqueous solution, water, a saturated aqueous solution of NaHCO3 and water until neutrality. After drying over MgSO4 and elimination of solvents under reduced pressure, the oil was filtered on silica gel (eluent: pentane). A colourless oil was obtained (10.15 g, 35 mmol).

reactant | 11-bromoundecanol | 39.8-mmol, 10 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | pyridine | 24.7 mmol, 2 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 137 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | Br(CH2)11Cl | BrCCCCCCCCCCCCl | C11H22BrCl
